US05328923
A. Alpha-amino-alpha-(6-methyl-3-pyridinyl)acetonitrile
To a solution of potassium cyanide (6.96 g, 107 mmol) and ammonium chloride (5.72 g, 107 mmol) in water (5 ml) was added 6-methyl-3-pyridin-carboxaldehyde (8.68 g, 71.5 mmol) and the reaction mixture was stirred at room temperature for 18 h. The reaction mixture was basified with 50% NaOH and extracted with ethyl acetate. The organic phase was dried (MgSO4) and evaporated to give the crude desired product in 7 g yield. The product was used without further purification.

reactant | potassium cyanide | 107 mmol, 6.96 g | [C-]#N.[K+]
reactant | ammonium chloride | 107 mmol, 5.72 g | [Cl-].[NH4+]
reactant | 6-methyl-3-pyridin-carboxaldehyde | 71.5 mmol, 8.68 g | CC1=CC=C(C=N1)C=O | C7H7NO
reactant | NaOH | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | Alpha-amino-alpha-(6-methyl-3-pyridinyl)acetonitrile | NC(C#N)C=1C=NC(=CC1)C | C8H9N3
